US08614215B2
Intermediate 40: 4-(4-methoxy-2-nitrobenzylidene)-1,2,2,6,6-pentamethylpiperidine
4-(4-methoxy-2-nitrobenzylidene)-2,2,6,6-tetramethylpiperidine (1.1 g; 3.23 mmol; 1 eq) is dissolved in MeOH (10 mL) then formaldehyde (0.19 g; 6.45 mmol; 2 eq) and sodium cyanoborohydride (0.41 g; 6.45 mmol; 2 eq) are added. The reaction mixture is stirred at room temperature overnight. The solvents are evaporated under reduced pressure and the residue obtained is taken up in EtOAc then a saturated aqueous solution of NaHCO3 is added. The organic phase is washed with brine, dried over MgSO4 and the solvent is evaporated under reduced pressure to afford 320 mg (31%) of the title compound as a yellow oil. 1H NMR (DMSO-d6) δ 7.53 (d, J=2.6 Hz, 1H), 7.20 (d, J=8.2 Hz, 1H), 7.10 (dd, J=8.6, 2.6 Hz, 1H), 6.49 (s, 1H), 3.87 (s, 3H), 2.22-2.15 (m, 6H), 1.20-1.10 (m, 6H), 1.00-0.90 (m, 6H). HPLC (max plot) 99.5%; Rt 2.84 min. LC/MS: (ES+): 319.1

reactant | 4-(4-methoxy-2-nitrobenzylidene)-2,2,6,6-tetramethylpiperidine | 3.23 mmol, 1.1 g, 1 eq | COC1=CC(=C(C=C2CC(NC(C2)(C)C)(C)C)C=C1)[N+](=O)[O-] | C17H24N2O3
reactant | formaldehyde | 6.45 mmol, 0.19 g, 2 eq | C=O | CH2O
reactant | sodium cyanoborohydride | 6.45 mmol, 0.41 g, 2 eq | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-methoxy-2-nitrobenzylidene)-1,2,2,6,6-pentamethylpiperidine | 320 mg, 31% | COC1=CC(=C(C=C2CC(N(C(C2)(C)C)C)(C)C)C=C1)[N+](=O)[O-] | C18H26N2O3
